US04824848
7-(2-Benzyloxyethyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A solution of 1-(2-benzyloxyethyl)-6-hydrazino-3-propyluracil (2.0 g, 6.3 mM) and methyl isothiocyanate (1.2 ml, 18 mM) in DMF (20 ml) was stirred at 60° C. for 1 hour and then at 100° C. for 20 hours. To the solution was added 50% methanol (10 ml) and the mixture was cooled to give crystals. Recrystallization from DMF/methanol afforded colorless prisms (1.39 g, 62%), m.p. 224°-226° C.

reactant | 1-(2-benzyloxyethyl)-6-hydrazino-3-propyluracil | 6.3 mM, 2.0 g | C(C1=CC=CC=C1)OCCN1C(=O)N(C(=O)C=C1NN)CCC | C16H22N4O3
reactant | methyl isothiocyanate | 18 mM, 1.2 ml | CN=C=S | C2H3NS
reactant | methanol | 10 ml | CO | CH4O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 7-(2-Benzyloxyethyl)-3-methylamino-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | C(C1=CC=CC=C1)OCCN1C(N(C(C2=C1NN=C2NC)=O)CCC)=O | C18H23N5O3
